US07405215B2
b.) (3-{2-[2-(4-Chloro-phenoxy)-ethyl]-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl}-5-fluoro-2-methyl-indol-1-yl)-acetic acid
(3-{2-[2-(4-Chloro-phenoxy)-ethyl]-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl}-5-fluoro-2-methyl-indol-1-yl)-acetic acid tert-butyl ester (61 μmol) was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ 8.11 (d, 1H), 7.92 (t, 1H), 7.83 (t, 1H), 7.46 (m, 2H), 7.24 (m, 2H), 6.95 (m, 4H), 4.52 (s, 2H), 4.39 (t, 2H), 4.27 (t, 2H), 2.20 (s, 3H) ppm. MS calculated for C26H21FClN3O5S—H: 540, observed: 540.

reactant | (3-{2-[2-(4-Chloro-phenoxy)-ethyl]-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl}-5-fluoro-2-methyl-indol-1-yl)-acetic acid tert-butyl ester | 61 μmol | C(C)(C)(C)OC(CN1C(=C(C2=CC(=CC=C12)F)C1=NN(S(C2=C1C=CC=C2)(=O)=O)CCOC2=CC=C(C=C2)Cl)C)=O | C30H29ClFN3O5S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (3-{2-[2-(4-Chloro-phenoxy)-ethyl]-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl}-5-fluoro-2-methyl-indol-1-yl)-acetic acid | ClC1=CC=C(OCCN2S(C3=C(C(=N2)C2=C(N(C4=CC=C(C=C24)F)CC(=O)O)C)C=CC=C3)(=O)=O)C=C1 | C26H21ClFN3O5S
